US06455528B1
(1) 1-Acetyl-4-(6-fluoropyridin-2-yl)piperazine
A solution of 2,6-difluoropyridine (9.0 g), 1-acetylpiperazine (5.0 g) and potassium carbonate (8.1 g) in acetonitrile (100 ml) was refluxed under heating for 18 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a pale-brown solid (8.7 g). The obtained pale-brown solid was crystallized from ethyl acetate-hexane to give the title compound (5.5 g) as pale-brown crystals.

reactant | 2,6-difluoropyridine | 9.0 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 1-acetylpiperazine | 5.0 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | potassium carbonate | 8.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-Acetyl-4-(6-fluoropyridin-2-yl)piperazine | 8.7 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC=C1)F | C11H14FN3O
